US08383642B2
Ethyl (3S)-3-(4-hydroxyphenyl)hex-4-ynoate
To a 0° C. solution of (3S)-3-(4-hydroxyphenyl)hex-4-ynoic acid (2.7 g, 13.2 mmol) in ethanol (135 mL) is added sulfuric acid (2.7 mL) and the mixture is heated at reflux for 4 hours, concentrated, diluted with water, and extracted with EtOAc (2×100 mL). The combined extracts are washed with saturated brine, dried over sodium sulfate, filtered, and concentrated to yellow oil (2.1 g, 68%). 1H NMR (400 MHz, CDCl3) δ 7.23 (d, J=8.0 Hz, 2H), 6.76 (d, J=8.0 Hz, 2H), 4.9 (bs, 1H), 4.11 (q, J=6.8 Hz, 2H), 4.04 (m, 1H), 2.60-2.75 (m, 2H), 1.82 (s, 3H), 1.21 (t, J=6.8 Hz, 3H).

reactant | (3S)-3-(4-hydroxyphenyl)hex-4-ynoic acid | 13.2 mmol, 2.7 g | OC1=CC=C(C=C1)[C@H](CC(=O)O)C#CC | C12H12O3
reactant | sulfuric acid | 2.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 135 mL | C(C)O | C2H6O
product | Ethyl (3S)-3-(4-hydroxyphenyl)hex-4-ynoate | OC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC | C14H16O3
